US07259175B2
3-{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid methyl ester
To a solution of [4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol (0.108 g, 0.400 mmole) and 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester (0.078 g, 0.400 mmole) in toluene (2 mL) at room temperature, is added tributylphosphine followed by a solution of 1,1′-(azodicarbonyl)-dipiperidine (0.201 g, 0.8 mmole) in toluene (2 mL). The reaction is stirred overnight, then diluted with hexane (10 mL). The precipitate is removed through filtration and the filtrate is concentrated, loaded to a silica gel column, eluted with ethyl acetate in hexane (0-15%) and concentrated to provide the titled compound as a white solid. Mass [EI+] 448 (M++H).

reactant | [4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | 0.400 mmole, 0.108 g | C(C)C=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
reactant | 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 0.400 mmole, 0.078 g | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 0.8 mmole, 0.201 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 3-{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CC)C)=O | C24H24F3NO4
